US07713994B2
4-nitro-3-[(triisopropylsilyl)oxy]benzaldehyde O-methyloxime
An amount of 3.0 g (15.39 mmol) of 3-hydroxy-4-nitrobenzaldehyde O-methyloxime is stirred in N,N-dimethylformamide (8 mL), followed by addition of imidazole (3.14 g, 46.17 mmol) and 4.89 mL (23.1 mmol) of triisopropylsilyl chloride. The reaction mixture is stirred at room temperature over night. 1:1 ethyl acetate: ether (300 mL) is added and extracted 3× with water, followed by additional washing with brine, dried over magnesium sulfate, evaporated, to afford 5.02 g (93% yield) as a yellow crystals.

reactant | 3-hydroxy-4-nitrobenzaldehyde O-methyloxime | 15.39 mmol, 3.0 g | CON=CC1=CC(=C(C=C1)[N+](=O)[O-])O | C8H8N2O4
reactant | imidazole | 46.17 mmol, 3.14 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 23.1 mmol, 4.89 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ether | 300 mL | CCOCC | C4H10O
product | 4-nitro-3-[(triisopropylsilyl)oxy]benzaldehyde O-methyloxime | 93% yield | CON=CC1=CC(=C(C=C1)[N+](=O)[O-])O[Si](C(C)C)(C(C)C)C(C)C | C17H28N2O4Si
